US07915267B2
1-(triphenylmethyl)-1H-1,2,4-triazole-3-carboxylic acid
By a method similar to that in Reference Example 15 and using, instead of ethyl 1H-1,2,4-triazol-3-ylacetate, methyl 1-(triphenylmethyl)-1H-1,2,4-triazole-3-carboxylate obtained in Reference Example 34, the title compound was obtained as a white powder (2.82 g, 98%).

reactant | ethyl 1H-1,2,4-triazol-3-ylacetate | N1N=C(N=C1)CC(=O)OCC | C6H9N3O2
reactant | methyl 1-(triphenylmethyl)-1H-1,2,4-triazole-3-carboxylate | C1(=CC=CC=C1)C(N1N=C(N=C1)C(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19N3O2
product | 1-(triphenylmethyl)-1H-1,2,4-triazole-3-carboxylic acid | C1(=CC=CC=C1)C(N1N=C(N=C1)C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17N3O2
